US08957064B2
3-bromo-2-methyl-7-{4-{3-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-6-phenyl-imidazo[1,2-a]pyrimidine
50 mg (0.098 mmol) 2-Methyl-7-{4-{3-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-6-phenyl-imidazo[1,2-a]pyrimidine are dissolved in 3.9 mL chloroform. 19.1 mg (0.11 mmol) N-bromosuccinimide are added and the reaction mixture is heated for one hour at reflux. The solvent is evaporated and the residue is purified by chromatography (silicagel, eluents: dichloromethane/methanol). 19.1 mg (31.5%) of the desired compound are obtained.

reactant | 2-Methyl-7-{4-{3-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-6-phenyl-imidazo[1,2-a]pyrimidine | 0.098 mmol, 50 mg | CC=1N=C2N(C=C(C(=N2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC(=CC=C2)C)C2=CC=CC=C2)C1 | C31H28N8
reactant | N-bromosuccinimide | 0.11 mmol, 19.1 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 3.9 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-2-methyl-7-{4-{3-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-6-phenyl-imidazo[1,2-a]pyrimidine | 19.1 mg, 31.5% | BrC1=C(N=C2N1C=C(C(=N2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC(=CC=C2)C)C2=CC=CC=C2)C | C31H27BrN8
